US07728005B2
To 5-nitroisoquinoline (2.0 g) were added hydroxylamine hydrochloride (5.0 g) and ethanol (120 ml). A solution of sodium hydroxide (10 g) in methanol (65 ml) was slowly added at 50° C. over 90 min. The reaction mixture was poured into ice water (700 g) and the resulting precipitate was collected by filtration. The residue was washed with ethanol and dried under reduced pressure to give 8-amino-5-nitroisoquinoline (1.25 g).

reactant | 5-nitroisoquinoline | 2.0 g | [N+](=O)([O-])C1=C2C=CN=CC2=CC=C1 | C9H6N2O2
reactant | hydroxylamine hydrochloride | 5.0 g | Cl.NO
reactant | ethanol | 120 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 10 g | [OH-].[Na+]
solvent | methanol | 65 ml | CO | CH4O
product | 8-amino-5-nitroisoquinoline | 1.25 g | NC=1C=CC(=C2C=CN=CC12)[N+](=O)[O-] | C9H7N3O2
